US08471005B2
A mixture of 2-methylsulfanyl-3H-[1,2,4]triazino[1,6-a]indol-4-one (3.00 g, 13.0 mmol), phosphoryl chloride (6.04 mL, 64.8 mmol), and N,N-diethylaniline (4.0 mL, 25.0 mmol) was allowed to sit for 30 min at room temperature and then refluxed for 1 hour. The mixture was then concentrated and the residue was azeotroped with toluene, cooled, and poured over ice. The resulting mixture was transferred to a separation funnel and the product was extracted in ether with 10-20% dichloromethane. The combined organic extracts were washed with dilute and cold aqueous HCl. then with dilute cold NaHCO3, and finally with cold water, dried over magnesium sulfate and concentrated. The product was purified by flash chromatography (ISCO, Silicagel, EtOAc/Hexanes 10-15%) to provide 4-chloro-2-methylsulfanyl-[1,2,4]triazino[1,6-a]indole (2.30 g, 71%). 1H-NMR (CDCl3) δ 8.11 (d, J=8.5 Hz, 1H), 7.86 (d, J=8.2 Hz, 1H), 7.49 (m, 1H), 7.41 (m, 1H), 7.14 (s, 1H), 2.68 (s, 3H); LC/MS (ESI+): 250.5 (M+H).

reactant | 2-methylsulfanyl-3H-[1,2,4]triazino[1,6-a]indol-4-one | 13.0 mmol, 3.00 g | CSC1=NN2C(=CC3=CC=CC=C23)C(N1)=O | C11H9N3OS
reactant | phosphoryl chloride | 64.8 mmol, 6.04 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-diethylaniline | 25.0 mmol, 4.0 mL | C(C)N(C1=CC=CC=C1)CC | C10H15N
product | 4-chloro-2-methylsulfanyl-[1,2,4]triazino[1,6-a]indole | 2.30 g, 71% | ClC1=NC(=NN2C1=CC1=CC=CC=C21)SC | C11H8ClN3S
